data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:1][C:10]([CH3:2])([CH3:3])[c:32]1[cH:19][cH:39][cH:20][c:33]([C:11]([CH3:4])([CH3:5])[CH3:6])[c:23]1[N:34]1[C:15](=[CH:54][c:57]2[cH:46][cH:16][c:22]([N+:63](=[O:13])[O-:24])[cH:17][cH:47]2)[N:12]([c:28]2[c:43]([C:8]([CH3:48])([CH3:49])[CH3:50])[cH:40][cH:59][cH:41][c:44]2[C:9]([CH3:51])([CH3:52])[CH3:53])[N:62]=[C:45]1[c:21]1[cH:60][cH:29][cH:58][cH:30][cH:61]1.[n:7]1[n:14][c:56]2[n:26]([cH:31][c:55]([N+:25](=[O:18])[O-:38])[cH:37][c:35]2[N+:36](=[O:27])[O-:64])[n:42]1>>[CH3:1][C:10]([CH3:2])([CH3:3])[c:32]1[cH:19][cH:39][cH:20][c:33]([C:11]([CH3:4])([CH3:5])[CH3:6])[c:23]1-[n:34]1[c:15]([CH:54]([CH:31]2[n:26]3[n:42][n:7][n:14][c:56]3[C:35]([N+:36](=[O:27])[O-:64])=[CH:37][C:55]2=[N+:25]([O-:18])[O-:38])[c:57]2[cH:46][cH:16][c:22]([N+:63](=[O:13])[O-:24])[cH:17][cH:47]2)[n+:12](-[c:28]2[c:43]([C:8]([CH3:48])([CH3:49])[CH3:50])[cH:40][cH:59][cH:41][c:44]2[C:9]([CH3:51])([CH3:52])[CH3:53])[n:62][c:45]1-[c:21]1[cH:60][cH:29][cH:58][cH:30][cH:61]1", "epd": [["LP-/Pi+", [12], [15, 12]], ["Pi-/Sigma+", [54, 15], [54, 31]], ["Pi-/Pi+", [31, 55], [55, 25]], ["Pi-/LP+", [25, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[S:1]([c:4]1[cH:20][cH:13][cH:8][cH:14][cH:21]1)([O-:5])=[O:17].[c:2]12[c:12]([n:6][o:19][n+:18]1[O-:3])[n:11][c:9]([O:15][CH3:10])[n:7][cH:16]2>>[S+:1]([c:4]1[cH:20][cH:13][cH:8][cH:14][cH:21]1)([O-:5])([CH:16]1[c:2]2[c:12]([n:6][o:19][n+:18]2[O-:3])[N:11]=[C:9]([O:15][CH3:10])[N-:7]1)=[O:17]", "epd": [["LP-/Sigma+", [1], [1, 16]], ["Pi-/LP+", [16, 7], [7]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]1(=[O:4])[N-:2][CH2:20][CH2:21][O:12]1.[C:3]([CH:10]1[N+:16](=[CH:6][CH:30]=[CH:11][c:24]2[cH:7][cH:17][cH:5][cH:18][cH:8]2)[CH:15]([CH2:31][c:28]2[cH:32][cH:13][cH:19][cH:14][cH:33]2)[C:23](=[O:9])[N:29]1[CH3:22])([CH3:25])([CH3:26])[CH3:27]>>[C:1]1(=[O:4])[N:2]([CH:11]([c:24]2[cH:7][cH:17][cH:5][cH:18][cH:8]2)[CH:30]=[CH:6][N:16]2[CH:10]([C:3]([CH3:25])([CH3:26])[CH3:27])[N:29]([CH3:22])[C:23](=[O:9])[CH:15]2[CH2:31][c:28]2[cH:32][cH:13][cH:19][cH:14][cH:33]2)[CH2:20][CH2:21][O:12]1", "epd": [["LP-/Sigma+", [2], [2, 11]], ["Pi-/Pi+", [11, 30], [30, 6]], ["Pi-/LP+", [6, 16], [16]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:5][c:8]1[cH:25][cH:13][c:12]([CH:19]=[C:18]2[CH:22]=[C:9]([Br:16])[C:11](=[O:15])[C:10]([Br:17])=[CH:23]2)[cH:14][cH:26]1.[NH:1]1[CH:3]([C:24](=[O:6])[O-:20])[CH2:7][CH2:21][CH2:4]1>>[NH+:1]1([CH:19]([c:12]2[cH:13][cH:25][c:8]([O:5][CH3:2])[cH:26][cH:14]2)[c:18]2[cH:22][c:9]([Br:16])[c:11]([O-:15])[c:10]([Br:17])[cH:23]2)[CH:3]([C:24](=[O:6])[O-:20])[CH2:7][CH2:21][CH2:4]1", "epd": [["LP-/Sigma+", [1], [1, 19]], ["Pi-/Pi+", [19, 18], [18, 22]], ["Pi-/Pi+", [22, 9], [9, 11]], ["Pi-/LP+", [11, 15], [15]]]}
{"reaction_name": "Iminium hydrolysis", "rsmi": "[CH:1]([CH3:2])=[N+:6]([CH3:4])[CH3:5].[O:3]([H:7])[H:8]>>[CH3:4][N+:6]([CH3:5])([H:7])[H:8].[CH:1]([CH3:2])=[O:3]", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 6], [6]], ["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [3, 7], [3]], ["Pi-/Sigma+", [1, 6], [6, 8]], ["Sigma-/LP+", [3, 8], [3]], ["LP-/Pi+", [3], [1, 3]]]}
{"reaction_name": "Glycal allylic rearrangement", "rsmi": "[CH:1]1=[CH:7][O:6][CH2:5][CH2:2][CH:10]1[O:9][C:3]([CH3:4])=[O:8]>>[CH:1]1=[CH:10][CH2:2][CH2:5][O:6][CH:7]1[O:9][C:3]([CH3:4])=[O:8]", "epd": [["Sigma-/Pi+", [9, 10], [1, 10]], ["Pi-/Sigma+", [1, 7], [7, 9]]]}
{"reaction_name": "α-Elimination from haloforms", "rsmi": "[Br:1][C:5]([Br:2])([Br:3])[H:6].[OH-:4]>>[Br-:3].[Br:1][C:5][Br:2].[OH:4][H:6]", "epd": [["Sigma-/LP+", [3, 5], [3]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Sigma+", [4], [4, 6]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[CH3:2][S-:5].[O:1]=[C:8]([CH:4]=[CH2:6])[O:7][CH3:3]>>[O:1]=[C:8]([CH-:4][CH2:6][S:5][CH3:2])[O:7][CH3:3]", "epd": [["LP-/Sigma+", [5], [5, 6]], ["Pi-/LP+", [4, 6], [4]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[S:2]1(=[O:26])(=[O:27])[c:13]2[c:8]([cH:12][cH:3][cH:17][cH:11]2)[C:23]([O-:9])=[N:20]1.[n+:1]1([CH3:14])[c:4]2[cH:15][cH:21][cH:18][cH:6][c:24]2[cH:10][c:25]2[c:5]1[cH:16][cH:22][cH:19][cH:7]2>>[N:1]1([CH3:14])[c:4]2[cH:15][cH:21][cH:18][cH:6][c:24]2[CH:10]([N:20]2[S:2](=[O:26])(=[O:27])[c:13]3[c:8]([cH:12][cH:3][cH:17][cH:11]3)[C:23]2=[O:9])[c:25]2[c:5]1[cH:16][cH:22][cH:19][cH:7]2", "epd": [["LP-/Pi+", [9], [23, 9]], ["Pi-/Sigma+", [20, 23], [20, 10]], ["Pi-/Pi+", [10, 24], [24, 4]], ["Pi-/LP+", [4, 1], [1]]]}
